US05665748
To a solution of 5-[3-(4-isopropoxyphenyl)propyl]-2,4-oxazolidinedione (1.5 g) in dichloromethane (70 ml) was added dropwise titanium tetrachloride (TiCl4) (4.1 g) at 0° C. The mixture was stirred for one hour at the same temperature. The reaction mixture was poured into ice-water, and subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate (MgSO4). The solvent was distilled off, and the residue was subjected to silica gel column chromatography. From the fractions eluted with ethyl acetate-hexane (1:4, v/v), 5-[3-(4-hydroxyphenyl)propyl]-2,4-oxazolidinedione (0.755 g, 59%) was obtained. Recrystallization from acetone-hexane gave colorless prisms. Melting point: 132°-133° C.

reactant | 5-[3-(4-isopropoxyphenyl)propyl]-2,4-oxazolidinedione | 1.5 g | C(C)(C)OC1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O | C15H19NO4
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 4.1 g | [Ti](Cl)(Cl)(Cl)Cl
product | 5-[3-(4-hydroxyphenyl)propyl]-2,4-oxazolidinedione | 0.755 g, 59% | OC1=CC=C(C=C1)CCCC1C(NC(O1)=O)=O | C12H13NO4
